US09145413B2
a. 4-(6-Fluoro-[1,2,4]triazolo[4,3-a]pyridin-3-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester (Intermediate 22a)
A dark brown solution of (5-fluoro-pyridin-2-yl)-hydrazine (549 mg, 4.32 mmol) and N-Boc-4-piperidine acetaldehyde (Aldrich, 982 mg, 4.32 mmol) in EtOH (10 mL) was stirred at reflux for 30 min, then cooled to 0° C., diluted with DCM (25 mL) and then (diacetoxyiodo)benzene (1.67 g, 5.18 mmol) was added portionwise over 1 min. The purple solution was stirred at RT for 30 min, then aqueous NaOH (1M, 20 mL) was added and the mixture shaken. The aqueous layer was extracted with DCM (2×20 mL), then the combined organics passed through a hydrophobic frit and concentrated in vacuo to leave an orange solid. FCC, using 3% MeOH in DCM, gave the title compound as a pale orange solid (1.53 g, 90%). LCMS (Method 3): Rt 3.15, m/z 235 [M-CO2C4H9+H+].

reactant | (5-fluoro-pyridin-2-yl)-hydrazine | 4.32 mmol, 549 mg | FC=1C=CC(=NC1)NN | C5H6FN3
reactant | N-Boc-4-piperidine acetaldehyde | 4.32 mmol, 982 mg | C(=O)(OC(C)(C)C)N1CCC(CC1)CC=O | C12H21NO3
reactant | (diacetoxyiodo)benzene | 5.18 mmol, 1.67 g | C(C)(=O)OI(OC(C)=O)C1=CC=CC=C1 | C10H11IO4
reactant | NaOH | 1M, 20 mL | [OH-].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | 4-(6-Fluoro-[1,2,4]triazolo[4,3-a]pyridin-3-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.53 g, 90% | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=NN=C2N1C=C(C=C2)F | C17H23FN4O2
